US04419517
A. N-(n-Hexyl)-4a-(m-methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline
The procedure in Example 9, Part A, was followed in which 4a-(m-methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline (12 g, 0.05 moles) in 150 ml of anhydrous dimethylformamide was added to a 55% suspension of sodium hydride in mineral oil (2.4 g) in 100 ml of dimethylformamide at 70°; n-hexyl bromide (9.1 g) was added, the reaction heated at 70° for 18 hrs. The crude material obtained from this procedure was chromatographed to yield 12 g of product.

reactant | 4a-(m-methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline | 0.05 moles, 12 g | COC=1C=C(C=CC1)C12CC(NC(C2=CCCC1)=O)=O | C16H17NO3
reactant | sodium hydride | [H-].[Na+]
reactant | n-hexyl bromide | 9.1 g | C(CCCCC)Br | C6H13Br
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-(n-Hexyl)-4a-(m-methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline | 12 g | C(CCCCC)N1C(C2=CCCCC2(CC1=O)C1=CC(=CC=C1)OC)=O | C22H29NO3
